US08076348B2
A 1.26 ml portion of 1 M hydrochloric acid and 30 mg of 20% palladium hydroxide were added to 9 ml ethanol solution of 300 mg N-(diaminomethylene)-9-[1-(diphenylmethyl)-azetidin-3-yl]-9H-carbazole-2-carboxamide, followed by stirring at room temperature for 4 days under an atmosphere of hydrogen gas. After carrying out celite filtration after adding 1 M sodium hydroxide aqueous solution, the solvent was evaporated, followed by purification by Chromatorex (methanol/chloroform) to obtain 89 mg of 9-azetidin-3-yl-N-(diaminomethylene)-9H-carbazole-2-carboxamide.

reactant | hydrochloric acid | 1 M | Cl | ClH
reactant | N-(diaminomethylene)-9-[1-(diphenylmethyl)-azetidin-3-yl]-9H-carbazole-2-carboxamide | 300 mg | NC(=NC(=O)C1=CC=2N(C3=CC=CC=C3C2C=C1)C1CN(C1)C(C1=CC=CC=C1)C1=CC=CC=C1)N | C30H27N5O
catalyst | palladium hydroxide | 30 mg | [OH-].[Pd+2].[OH-]
solvent | ethanol | 9 ml | C(C)O | C2H6O
product | 9-azetidin-3-yl-N-(diaminomethylene)-9H-carbazole-2-carboxamide | 89 mg | N1CC(C1)N1C2=CC=CC=C2C=2C=CC(=CC12)C(=O)N=C(N)N | C17H17N5O
